US07462624B2
Step E: 3-Pentyl-8-(trifluoromethyl)-3,7-dihydro-1H-purine-2,6-dione
A mixture of 5,6-diamino-1-pentylpyrimidine-2,4(1H,3H)-dione (1.5 g, 7.1 mmol) and trifluoroacetic anhydride (20 mL, 100 mmol) in DMF (20 mL) was heated at 70° C. for 1 h. After removing most of unreacted trifluoroacetic anhydride by evaporation under reduced pressure, the remaining solution was transferred to a sealed tube and heated at 120° C. for 1 h. After cooling to room temperature, the reaction mixture was concentrated under reduced pressure and the residue was triturated with methylene chloride to form solid precipitates. The solid was filtered to provide the desired product (0.81 g, 39.5% yield). LCMS calculated for C11H14F3N4O2 (M+H): 291.107; found: 291.1.

reactant | 5,6-diamino-1-pentylpyrimidine-2,4(1H,3H)-dione | 7.1 mmol, 1.5 g | NC=1C(NC(N(C1N)CCCCC)=O)=O | C9H16N4O2
reactant | trifluoroacetic anhydride | 100 mmol, 20 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 3-Pentyl-8-(trifluoromethyl)-3,7-dihydro-1H-purine-2,6-dione | 0.81 g, 39.5% yield | C(CCCC)N1C(NC(C=2NC(=NC12)C(F)(F)F)=O)=O | C11H13F3N4O2
